US05753664
2-[4-[4-(2-Acetoxyethoxy)benzoyl]benzylthio]-3,5-dimethyl-4(3H)-quinazolinone
A solution of 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone (1.888 g), 4-(4-acetoxyethoxybenzoyl)benzyl bromide (3.895 g) and 1N-aqueous sodium hydroxide solution (14.3 ml) in methanol (30 ml) was stirred at room temperature for 30 minutes. This reaction mixture was concentrated and extracted with chloroform. The extract was washed with water, dried, and concentrated, and the residue was recrystallized from ethyl acetate to provide the title compound as colorless solid (2.597 g).

reactant | 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone | 1.888 g | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | 4-(4-acetoxyethoxybenzoyl)benzyl bromide | 3.895 g | C(C)(=O)OCCOC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C18H17BrO4
reactant | sodium hydroxide | 14.3 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-[4-[4-(2-Acetoxyethoxy)benzoyl]benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 2.597 g | C(C)(=O)OCCOC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C28H26N2O5S
